US05037827
(2) Synthesis of 3-(2-pyridyl) methylhydantoin
5.0 g of hydantoin, 8.2 g of 2-chloromethylpyridine and 6.9 g of potassium carbonate anhydride were dissolved into 100 ml of N,N-dimethylformamide and these were stirred under room temperature for 1 hour and at 80° C. for 30 minutes. The N,N-dimethylformamide was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (eluate solvant; chloroform:methanol =9:1). Thus 4.8 g of the captioned compound was thus obtained.

reactant | hydantoin | 5.0 g | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | 2-chloromethylpyridine | 8.2 g | ClCC1=NC=CC=C1 | C6H6ClN
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-(2-pyridyl) methylhydantoin | 4.8 g | N1=C(C=CC=C1)CN1C(NCC1=O)=O | C9H9N3O2
